US05663331
A. Preparation of 1-ethyl-6,7-difluoro-1,2,3,4-tetrahydro-4-oxoquinoline
1-Ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline carboxylic acid(20 g) and sodium borohydride(12 g) were reacted in the same method as described in Preparation 1-A to give the bright-yellow above-indicated compound(11 g).

reactant | 1-Ethyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline carboxylic acid | 20 g | C(C)N1C(=CC(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | sodium borohydride | 12 g | [BH4-].[Na+]
product | 1-ethyl-6,7-difluoro-1,2,3,4-tetrahydro-4-oxoquinoline | 11 g, Yield: 80% | C(C)N1CCC(C2=CC(=C(C=C12)F)F)=O | C11H11F2NO
